US07456164B2
1-(4-{4-[(1-cyclobutylpiperidin-4-yl)oxy]phenyl}tetrahydro-2H-pyran-4-yl)-N,N-dimethylmethanamine
4-(4-Dimethylaminomethyl-tetrahydro-pyran-4-yl)-phenol (0.75 g, 3.19 mmol), 1-cyclobutylpiperidin-4-ol (0.45 g, 2.90 mmol), PPh3 (0.84 g, 3.19 mmol), THF (10 ml) and DIAD (0.66 ml, 3.19 mmol) were reacted together similarly to general procedure C. The crude material was subjected to chromatography on silica gel eluting with dichloromethane:methanol:ammonia (98:2:0.2) to provide the title compound (114 mg, 11%) as an off-white solid. 1H NMR (400 MHz, CD3OD) δ 1.71-1.77 (m, 4H), 1.85-1.90 (m, 4H), 1.94 (s, 6H), 1.99-2.06 (m, 4H), 2.12-2.16 (m, 2H), 2.20-2.28 (m, 2H), 2.45 (s, 2H), 2.58-2.70 (m, 2H), 2.79 (m, 1H), 3.46-3.53 (m, 2H), 3.72-3.75 (m, 2H), 4.39 (m, 1H), 6.91 (d, 2H), 7.26 (d, 2H). HRMS ESI+ m/z 373.2846 [MH]+.

reactant | 4-(4-Dimethylaminomethyl-tetrahydro-pyran-4-yl)-phenol | 3.19 mmol, 0.75 g | CN(C)CC1(CCOCC1)C1=CC=C(C=C1)O | C14H21NO2
reactant | 1-cyclobutylpiperidin-4-ol | 2.90 mmol, 0.45 g | C1(CCC1)N1CCC(CC1)O | C9H17NO
reactant | PPh3 | 3.19 mmol, 0.84 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DIAD | 3.19 mmol, 0.66 ml | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | dichloromethane methanol ammonia | ClCCl.CO.N
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 1-(4-{4-[(1-cyclobutylpiperidin-4-yl)oxy]phenyl}tetrahydro-2H-pyran-4-yl)-N,N-dimethylmethanamine | 114 mg, 11% | C1(CCC1)N1CCC(CC1)OC1=CC=C(C=C1)C1(CCOCC1)CN(C)C | C23H36N2O2
